US04186199
6-Methyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine
To a stirred solution of 2.00 g of 1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine in 40 ml of tetrahydrofuran, cooled under N2 to 0° C., is added dropwise 10 ml of a 2.5 molar solution of methyl magnesium bromide in ether. The reaction mixture is refluxed for 3 hours, cooled, and treated cautiously with saturated aqueous NH4OH solution. The mixture is partitioned between CH2Cl2 and water. The organic phase is separated, washed once with brine, dried over Na2SO4 and concentrated to a solid of 6-methyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine, m.p. 134°-136° C.

reactant | 1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine | 2.00 g | C1CC2=CC=CC3=C2N1C1=C(N=C3)C=CC=C1 | C15H12N2
reactant | methyl magnesium bromide | C[Mg]Br
reactant | NH4OH | [NH4+].[OH-]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 6-Methyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine | CC1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | C16H16N2
